US07511035B2
f) 4-Bromo-3-methoxyquinolin-3-yl-diazonium tetrafluoroborate
3-Amino-4-bromo-6-methoxyquinoline (18.4 g, 0.0727 mole) was dissolved in dry THF (250 mL) and the solution was cooled to −8° C. (EtOH-ice bath). Nitrosonium tetrafluoroborate (9.34 g, 0.08 mole) was added in portions over 10 min, keeping the temperature less than −2° C. The mixture was stirred at −5 to 0° C. for 30 min, then the yellow precipitate was filtered off and washed sequentially with cold THF and hexane. Drying in vacuo gave the title compound (19.4 g, 76%) an insoluble orange-yellow solid.

reactant | 3-Amino-4-bromo-6-methoxyquinoline | 0.0727 mole, 18.4 g | NC=1C=NC2=CC=C(C=C2C1Br)OC | C10H9BrN2O
reactant | Nitrosonium tetrafluoroborate | 0.08 mole, 9.34 g | F[B-](F)(F)F.N#[O+]
reactant | THF | 250 mL | C1CCOC1 | C4H8O
product | 4-Bromo-3-methoxyquinolin-3-yl-diazonium tetrafluoroborate | 19.4 g, 76% | F[B-](F)(F)F.BrC=1C(CN=C2C=CC=CC12)(OC)[N+]#N | InChI=1S/C10H9BrN3O.BF4/c1-15-10(14-12)6-13-8-5-3-2-4-7(8)9(10)11;2-1(3,4)5/h2-5H,6H2,1H3;/q+1;-1
